US07642275B2
A solution of 4-(2-Oxo-2,3-dihydro-benzoimidazol-1 -ylmethyl)-benzoic acid (0.1 mmol) in DMF (1 mL) was sequentially treated with PyBOP (0.12 mmol), 1,2-phenylenediamine (0.12 mmol) and Et3N (0.3 mmol). After stirring at 23° C. for 4 h, the reaction was filtered and the crude material was purified by HPLC to yield N-(2-Amino-phenyl)-4-(2-oxo-2,3-dihydro-benzoimidazol-1-ylmethyl)-benzamide. 1H NMR (400 MHz, DMSO-D6) δ ppm 4.88 (s, 2H), 5.09 (s, 2H), 6.55-6.61 (m, 1H), 6.76 (d, J=8.08 Hz, 1H), 6.93-7.04 (m, 5H), 7.14 (d, J=7.58 Hz, 1H), 7.43 (d, J=8.08 Hz, 2H), 7.93 (d, J=8.08 Hz, 2H), 9.61 (s, 1H), 11.02 (s, 1H). ESI-MS: m/z 359.3 (M+H)+.

reactant | 4-(2-Oxo-2,3-dihydro-benzoimidazol-1 -ylmethyl)-benzoic acid | 0.1 mmol | O=C1NC2=C(N1CC1=CC=C(C(=O)O)C=C1)C=CC=C2 | C15H12N2O3
reactant | PyBOP | 0.12 mmol | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | 1,2-phenylenediamine | 0.12 mmol | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | Et3N | 0.3 mmol | CCN(CC)CC | C6H15N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-(2-Amino-phenyl)-4-(2-oxo-2,3-dihydro-benzoimidazol-1-ylmethyl)-benzamide | NC1=C(C=CC=C1)NC(C1=CC=C(C=C1)CN1C(NC2=C1C=CC=C2)=O)=O | C21H18N4O2
